US06465687B1
A mixture of 3,5-dibromo-4-(4-hydroxy-3-isopropylphenoxy) benzyl phosphonic acid, diethyl ester (21 mg, 0.0392 mmol) in 2 ml of 6 M HCl was refluxed for 24 hours. The reaction mixture was concentrated and the residue was recrystallized with EtOH/water to give 10 mg (0.021 mmol, 53%) of 3,5-dibromo-4-(4-hydroxy-3-isopropylphenoxy)-benzylphosphonic acid as white crystalls.

reactant | 3,5-dibromo-4-(4-hydroxy-3-isopropylphenoxy) benzyl phosphonic acid, diethyl ester | 0.0392 mmol, 21 mg | BrC=1C=C(CP(OCC)(OCC)=O)C=C(C1OC1=CC(=C(C=C1)O)C(C)C)Br | C20H25Br2O5P
solvent | HCl | 6 M, 2 ml | Cl | ClH
product | 3,5-dibromo-4-(4-hydroxy-3-isopropylphenoxy)-benzylphosphonic acid | 0.021 mmol, 10 mg, 53% | BrC=1C=C(CP(O)(O)=O)C=C(C1OC1=CC(=C(C=C1)O)C(C)C)Br | C16H17Br2O5P
